US04490369
7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of 1.8 gm of glacial acetic acid in 10 ml of dioxane was added dropwise to a suspension of 1.3 gm (6 mmols) of 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 1.1 gm (3 mmols) of sodium borohydride in 20 ml of dioxane; the mixture was refluxed for 3 hours, concentrated by evaporation and mixed with water. The mixture was extracted twice by shaking with methylene chloride; the extract was concentrated by evaporation, and the residue was taken up in ether. After filtering, the ether was removed in vacuo.

reactant | acetic acid | 1.8 gm | C(C)(=O)O | C2H4O2
reactant | 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 6 mmols, 1.3 gm | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | sodium borohydride | 3 mmols, 1.1 gm | [BH4-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC2=C(CCNCC2)C=C1OC | C12H17NO2
